.subckt CMOSXOR VOUT A B VDD VSS
XUA N001 VDD A N002 VOUT A VSS NA N003 NA N001 VOUT NA VDD CMOS4007
XUB VOUT N001 NB VSS N003 B VSS N002 VSS B VDD NB N001 VDD CMOS4007
.lib .\5824.CD4007.lib
.end CMOSXOR
.backanno
.end
