* Z:\home\andy\Workspace\ENCM_467\lab2\ltspice_schematics\part22.asc
V1 VDD 0 5
XU1 NC_01 NC_02 NC_03 NC_04 NC_05 Vin 0 Vo NC_06 NC_07 NC_08 NC_09 Vo vdd CMOS4007
V2 Vin 0 V
.dc V2 0 5 0.01
.lib Z:\home\andy\Documents\LTspiceXVII\lib\sub\5824.CD4007.lib
.backanno
.end
