* Z:\home\andy\Workspace\ENCM_467\lab3\ltspice_schematics\NAND.asc
.subckt CMOSNAND Vout A B VDD VSS
XU1 0 0 B N001 Vout A VSS N001 0 0 0 0 0 VDD CMOS4007
XU2 Vout VDD B 0 0 A VSS 0 0 0 0 0 Vout VDD CMOS4007
* Pull Down Network
* Pull Up Network
.lib Z:\home\andy\Documents\LTspiceXVII\lib\sub\5824.CD4007.lib
.ends CMOSNAND
.backanno
.end
