* Z:\home\andy\Workspace\ENCM_467\lab3\ltspice_schematics\NOR.asc
.subckt CMOSNOR Vout A B VDD VSS
XU1 0 0 B VSS Vout A VSS Vout 0 0 0 0 0 VDD CMOS4007
XU2 Vout N001 B 0 0 A VSS 0 0 0 0 0 N001 VDD CMOS4007
* Pull Up Network
* Pull Down Network
.lib Z:\home\andy\Documents\LTspiceXVII\lib\sub\5824.CD4007.lib
.ends CMOSNOR
.backanno
.end
